US05498741
Preparation of 2-tert-butylphenyl phenyl-2,4,6-trimethylbenzoylphosphinate
69.7 g (0.382 mol) of 2,4,6-trimethylbenzoyl chloride and 0.9 g of triethylamine were heated under a nitrogen atmosphere to 115° C. and 57.8 g (0.191 mol) of monoethyl mono-2-tert-butylphenyl phenylphosphonite were added dropwise in one hour with stirring. Ethyl chloride was given off as a gas and was condensed in a downstream cold trap. The mixture was further stirred for 2 hours. In total, 11.7 g of ethyl chloride (95% of theory) condensed. After distilling off the excess acid chloride, the residue was distilled with the aid of a thin-film evaporator (bath temperature: 270° C.; 0.4 mbar). 70 g were obtained. The product was brought to crystallization from concentrated acetone solution, melting point: 76°-79° C. The yield was 87% of theory.

reactant | 2,4,6-trimethylbenzoyl chloride | 0.382 mol, 69.7 g | CC1=C(C(=O)Cl)C(=CC(=C1)C)C | C10H11ClO
reactant | monoethyl mono-2-tert-butylphenyl phenylphosphonite | 0.191 mol, 57.8 g | C1(=CC=CC=C1)P(OCC)OC1=C(C=CC=C1)C(C)(C)C | C18H23O2P
reactant | Ethyl chloride | C(C)Cl | C2H5Cl
reactant | ethyl chloride | 11.7 g | C(C)Cl | C2H5Cl
solvent | triethylamine | 0.9 g | C(C)N(CC)CC | C6H15N
product | 2-tert-butylphenyl phenyl-2,4,6-trimethylbenzoylphosphinate | yield was 87% | C1(=CC=CC=C1)P(OC1=C(C=CC=C1)C(C)(C)C)(=O)C(C1=C(C=C(C=C1C)C)C)=O | C26H29O3P
